US08211904B2
Step 2: cis 2-(3-methoxyphenyl)cyclopentanamine
To a solution of cis 2-[2-(3-methoxyphenyl)cyclopentyl]-1H-isoindole-1,3(2H)-dione (0.23 g, 0.72 mmol) in toluene (3 mL) was added hydrazine (0.23 mL, 7.23 mmol). After stirring at room temperature for 1 h, then 95° C. for 4 h, a precipitate formed. The mixture was cooled to rt, filtered, and washed with toluene. The filtrate was concentrated to give the desired product, which was used without further purification.

reactant | cis 2-[2-(3-methoxyphenyl)cyclopentyl]-1H-isoindole-1,3(2H)-dione | 0.72 mmol, 0.23 g | COC=1C=C(C=CC1)[C@@H]1[C@@H](CCC1)N1C(C2=CC=CC=C2C1=O)=O | C20H19NO3
reactant | hydrazine | 7.23 mmol, 0.23 mL | NN | H4N2
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | cis 2-(3-methoxyphenyl)cyclopentanamine | COC=1C=C(C=CC1)[C@@H]1[C@@H](CCC1)N | C12H17NO
